US04544753
c. N-(3-Benzoyl-5-methylisoxazol-4-yl)bromoacetamide
Bromoacetylbromide (40 g, 0.2 mole) was added slowly to a mixture of 20 g (0.1 mole)(4-amino-5-methylisoxazol-3-yl)-phenylmethanone of Example Ib in 500 ml dichloromethane with 200 ml of 2N sodium carbonate and 500 ml saturated sodium bicarbonate at 5° C. After stirring for 30 minutes the mixture was diluted with 400 ml dichloromethane and 400 ml water. The organics were washed with water and brine and dried (magnesium sulfate). Concentration gave 32 g of an oil which was chromatographed on high pressure liquid chromatograph (HPLC) using dichloromethane as an eluent to yield 23 g (71%) of a solid, melting point 89°-92° C.

reactant | Bromoacetylbromide | 0.2 mole, 40 g | BrCC(=O)Br | C2H2Br2O
reactant | (4-amino-5-methylisoxazol-3-yl)-phenylmethanone | 0.1 mole, 20 g | NC=1C(=NOC1C)C(=O)C1=CC=CC=C1 | C11H10N2O2
reactant | sodium carbonate | 2N, 200 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | water | 400 ml | O | H2O
product | N-(3-Benzoyl-5-methylisoxazol-4-yl)bromoacetamide | 32 g | C(C1=CC=CC=C1)(=O)C1=NOC(=C1NC(CBr)=O)C | C13H11BrN2O3
